US09108969B2
Preparation of 2-(7-(4-Carbamoyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid (Compound 19)
To a solution of 2-(7-(4-cyano-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid (15.0 mg, 0.036 mmol) in dioxane (1 mL) was added 1 M LiOH (aq) (3.0 mL). The reaction was stirred at 50° C. for 48 h. 1 M HCl (aq) was added until pH=3. The mixture was extracted with EtOAc. The organic extract was dried over MgSO4 and purified by preparative HPLC/MS to give the title compound as a solid (3.1 mg). LCMS m/z=433.4 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 2.14-2.27 (m, 1H), 2.55 (dd, J=16.23, 8.02 Hz, 1H), 2.63-2.72 (m, 1H), 2.72-2.83 (m, 1H), 3.52-3.63 (m, 1H), 3.90-4.00 (m, 1H), 4.04-4.15 (m, 1H), 5.21 (s, 2H), 6.01 (s, 1H), 6.78 (dd, J=8.72, 2.40 Hz, 1H), 7.07 (d, J=2.27 Hz, 1H), 7.20 (d, J=8.72 Hz, 1H), 7.49-7.60 (m, 2H), 7.75 (d, J=7.83 Hz, 1H), 7.82 (s, 1H), 7.91 (s, 1H), 12.28 (bs, 1H).

reactant | 2-(7-(4-cyano-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid | 0.036 mmol, 15.0 mg | C(#N)C1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=C1)C(F)(F)F | C22H17F3N2O3
reactant | LiOH | 1 M, 3.0 mL | [Li+].[OH-]
reactant | HCl | 1 M | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-(7-(4-Carbamoyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 3.1 mg | C(N)(=O)C1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=C1)C(F)(F)F | C22H19F3N2O4
